US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.120 g, 0.434 mmol) was reacted with N-(2-azidoethyl)-2,3,4,5,6-pentamethylbenzenesulfonamide (0.141 g, 0.434 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(2,3,4,5,6-pentamethylphenylsulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.30 (s, 1H), δ 7.01 (s, 1H), δ 6.44 (s, 1H), δ 6.17 (s, 2H), δ 4.35 (s, 2H), δ 3.34 (s, 2H0, δ2.47 (s, 2H), δ 2.48 (s, 6H), δ 2.20 (m, 11H), δ 1.43 (m, 15H) ppm; 13C NMR (75 MHz, CDCl3) δ 149.6, 148.1, 139.7, 136.2, 134.9, 134.3, 122.4, 84.9, 53.7, 50.2, 42.5, 31.1, 29.3, 28.9, 28.4, 28.2, 25.6, 19.1, 17.9, 17.2 ppm; HRMS (ESI) calcd for C28H43N7O4S (M+) 573.3097. found 573.3086, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-2,3,4,5,6-pentamethylbenzenesulfonamide hydrochloride (0.143 g, 76% yield). 1H NMR (400 MHz, CD3OD) δ 8.11 (s, 1H), δ 6.42 (s, 1H), δ 4.48 (s, 2H), δ 3.34 (s, 2H), δ 2.65 (s, 2H), δ 2.40 (s, 8H), δ 2.12 (s, 9H), δ 1.58 (s, 4H), δ 1.19 (s, 2H) ppm; 13C NMR (100 MHz, CD3OD) δ 159.9, 147.3, 139.6, 136.1, 134.8, 134.0, 127.8, 127.6, 108.6, 108.4, 54.1, 51.5, 41.8, 36.5, 28.2, 28.1, 27.7, 24.1, 23.7, 18.2, 16.8, 16.1 ppm; HRMS (ESI) calcd for C23H35N7O2S (M+) 473.2573. found 473.2565.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.434 mmol, 0.120 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-2,3,4,5,6-pentamethylbenzenesulfonamide | 0.434 mmol, 0.141 g | N(=[N+]=[N-])CCNS(=O)(=O)C1=C(C(=C(C(=C1C)C)C)C)C | C13H20N4O2S
product | tert-butyl 2-amino-4-(5-(1-(2-(2,3,4,5,6-pentamethylphenylsulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNS(=O)(=O)C1=C(C(=C(C(=C1C)C)C)C)C)C(=O)OC(C)(C)C | C28H43N7O4S
